US06268444B1
Preparation of 1-(1H-inden-3-yl)piperidine, (12).
According to the general method for titanium catalyzed enamine formation of Example 7, dry piperidine (51.4 g, 600 mmol) was treated with TiCl4 (14.35 g, 75.7 mmol) in 400 mL of CH2Cl2 at 0° C. 1-Indanone (10.0 g, 75.6 mmol) was added at this temperature and the reaction mixture was brought to 25° C. 1H NMR analysis of a worked-up aliquot revealed complete conversion to product. Solvent was removed by rotary evaporation and the resulting dark oil and TiO2 residue was triturated with 300 mL of hexane. The solution was filtered through dry Celite and evaporated to afford crude product (20 g dark oil). The product was distilled through a 6″ Vigreaux column to afford pure product (11.01 g, 55.1 mmol) in 73 percent yield as a light yellow oil (98 area percent enamine by GC analysis): bp=143° C. @ 1 mm.

reactant | piperidine | 600 mmol, 51.4 g | N1CCCCC1 | C5H11N
reactant | 1-Indanone | 75.6 mmol, 10.0 g | C1(CCC2=CC=CC=C12)=O | C9H8O
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
catalyst | titanium | [Ti] | Ti
catalyst | TiCl4 | 75.7 mmol, 14.35 g | Cl[Ti](Cl)(Cl)Cl
product | 1-(1H-inden-3-yl)piperidine | 55.1 mmol, 11.01 g, 73 percent yield | C1C=C(C2=CC=CC=C12)N1CCCCC1 | C14H17N
